US08247429B2
(2-methyl-6,7-dihydrocyclopenta[e]indazol-8(2H)-ylidene)acetonitrile
To a suspension of 60% sodium hydride (116 mg, 2.90 mmol) in tetrahydrofuran (8 mL) was added diethyl cyanomethylphosphonate (516 μL, 3.19 mmol), and the mixture was stirred at room temperature for 30 min. A solution of 2-methyl-6,7-dihydrocyclopenta[e]indazol-8(2H)-one (180 mg, 0.97 mmol) in tetrahydrofuran (2 mL) was added thereto, and the mixture was stirred at 50° C. for 30 min. The reaction solution was diluted with water, extracted with ethyl acetate, washed with water and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=35/65→70/30) to give the title compound (138 mg, yield 68%).

reactant | sodium hydride | 2.90 mmol, 116 mg | [H-].[Na+]
reactant | diethyl cyanomethylphosphonate | 3.19 mmol, 516 μL | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | 2-methyl-6,7-dihydrocyclopenta[e]indazol-8(2H)-one | 0.97 mmol, 180 mg | CN1N=C2C=CC3=C(C2=C1)C(CC3)=O | C11H10N2O
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | (2-methyl-6,7-dihydrocyclopenta[e]indazol-8(2H)-ylidene)acetonitrile | 138 mg, yield 68% | CN1N=C2C=CC3=C(C2=C1)C(CC3)=CC#N | C13H11N3
